US05204326
Preparation of Boc-Thr(Bzl)-Asn-Thr(Bzl)-Gly-Ser(Bzl)-Gly-Thr(Bzl)-Pro-NH2
By using 21.00 g of Boc-Asn-Thr(Bzl)-Gly-Ser(Bzl)-Gly-Thr(Bzl)-Pro-NH2 and 9.37 g of Boc-Thr(Bzl)-OSu, and the same procedure as in Reference Example 18 was repeated to obtain 23.4 g (yield: 93.6%) of the above-mentioned objective product. Melting point: 110-113° C.

reactant | Boc-Asn-Thr(Bzl)-Gly-Ser(Bzl)-Gly-Thr(Bzl)-Pro-NH2 | 21.00 g | N([C@@H](CC(N)=O)C(=O)N[C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)NCC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N1[C@H](C(=O)N)CCC1)C(=O)OC(C)(C)C | C50H67N9O13
reactant | Boc-Thr(Bzl)-OSu | 9.37 g | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C20H26N2O7
product | Boc-Thr(Bzl)-Asn-Thr(Bzl)-Gly-Ser(Bzl)-Gly-Thr(Bzl)-Pro-NH2 | 23.4 g, yield: 93.6% | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)NCC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N1[C@H](C(=O)N)CCC1)C(=O)OC(C)(C)C | C61H80N10O15
